US06187783B1
7-Benzyloxy-8-methoxy-benzo[c]phenanthridine (prepared by the process described in Japanese Patent KOKAI No. 5-208959, 284 mg, 0.78 mmol) was suspended in acetonitrile (10 mL), and trifluoroacetic acid (60 μL, 0.78 mmol), 3-bromo-1-propanol (71 μL, 0.79 mmol) and tris(trimethylsilyl)silane (481 μL, 1.56 mmol) were added to the suspension. The mixture was stirred at 80° C. on an oil bath. After the suspension was dissolved, azobis(isobutyronitrile) (256 mg, 1.56 mmol) was added to the solution followed by heating under reflux. An hour later, the reaction mixture was allowed to cool to room temperature, and then a saturated sodium hydrogencarbonate aqueous solution (60 mL) was added thereto followed by extraction with methylene chloride. After the organic layer was washed with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, the solvent was distilled off in vacuo. The residue was passed through a silica gel column (eluted with 1% methanol-methylene chloride). The main fractions were collected and concentrated in vacuo to give 6-(3-hydroxypropyl)-7-benzyloxy-8-methoxy-benzo[c]phenanthridine as a crude product (purity 50%, 142 mg, yield 21%) in a yellow brown dry mass.

reactant | 7-Benzyloxy-8-methoxy-benzo[c]phenanthridine | C(C1=CC=CC=C1)OC=1C2=CN=C3C4=C(C=CC3=C2C=CC1OC)C=CC=C4 | C25H19NO2
reactant | trifluoroacetic acid | 0.78 mmol, 60 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-bromo-1-propanol | 0.79 mmol, 71 μL | BrCCCO | C3H7BrO
reactant | tris(trimethylsilyl)silane | 1.56 mmol, 481 μL | C[Si](C)(C)[SiH]([Si](C)(C)C)[Si](C)(C)C | C9H28Si4
reactant | azobis(isobutyronitrile) | 1.56 mmol, 256 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | sodium hydrogencarbonate | 60 mL | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 6-(3-hydroxypropyl)-7-benzyloxy-8-methoxy-benzo[c]phenanthridine | OCCCC=1N=C2C3=C(C=CC2=C2C=CC(=C(C12)OCC1=CC=CC=C1)OC)C=CC=C3 | C28H25NO3
